US04254260
To a mixture of 2-methanesulfonamidothiazol-5-ylacetic acid (1.65 g.), dried methylene chloride (40 ml.) and diethyl ether (4 ml.) was added phosphorus pentachloride (3.5 g.) under ice-cooling and stirring and the mixture was stirred for 30 minutes at the same temperature. To the mixture was added n-hexane, and the precipitated crystals were washed by decantation three times. Thus obtained crystals were gradually added to a solution, which is prepared by adding sodium bicarbonate (2.15 g.) to a suspension of 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-amino-3-cephem-4-carboxylic acid (2.1 g.) in a mixture of acetone (25 ml.) and water (25 ml.) and then by cooling it at 0° to 5° C., under ice-cooling and stirring while the mixture was kept to pH 7.5 to 8 with a saturated sodium bicarbonate aqueous solution. The mixture was further stirred for 40 minutes at about the same pH and temperature. After the reaction, acetone was removed by washing the reaction mixture with benzene. The aqueous layer was adjusted to pH 5 with 5% hydrochloric acid and filtered. To the aqueous filtrate was overlayed ethyl acetate, and the mixture was gradually adjusted to pH 2 with 5% hydrochloric acid under ice-cooling. The ethyl acetate layer was separated from the mixture, and the remaining aqueous layer was extracted twice with ethyl acetate (70 ml.). The ethyl acetate layers were combined together, washed with water and a saturated sodium chloride aqueous solution in turn and then dried over magnesium sulfate. The solvent was distilled off from the ethyl acetate layer, and the resulting yellow powder was dried to give a mixture (1.6 g.) of 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-(2-methanesulfonamidothiazol-5-yl)acetamido-3-cephem-4-carboxylic acid (hereinafter referred to Amino compound) and 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-(2-methanesulfonimido-2,3-dihydrothiazol-5-yl)acetamido-3-cephem-4-carboxylic acid (hereinafter referred to Imino compound).

reactant | 2-methanesulfonamidothiazol-5-ylacetic acid | 1.65 g | CS(=O)(=O)NC=1SC(=CN1)CC(=O)O | C6H8N2O4S2
reactant | phosphorus pentachloride | 3.5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | sodium bicarbonate | 2.15 g | C([O-])(O)=O.[Na+]
reactant | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-amino-3-cephem-4-carboxylic acid | 2.1 g | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2N)=O | C10H12N6O3S2
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | water | 25 ml | O | H2O
solvent | n-hexane | CCCCCC | C6H14
solvent | diethyl ether | 4 ml | C(C)OCC | C4H10O
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-(2-methanesulfonamidothiazol-5-yl)acetamido-3-cephem-4-carboxylic acid | 1.6 g | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(CC2=CN=C(S2)NS(=O)(=O)C)=O)=O | C16H18N8O6S4
